US08648103B2
(a) 5-Ethyl-4-phenylimidazole
An aqueous solution (5 mL) of concentrated hydrochloric acid (0.6 mL) and sodium thiocyanate (1.62 g, 20.03 mmol) was added to a solution of 2-aminopropiophenone hydrochloride (2.00 g, 10.02 mmol) in ethanol (20 mL). The obtained mixture was stirred at 70° C. for 1 hour. The solvent was distilled away, and acetic acid (20 mL) was then added to the residue. The obtained mixture was stirred at 100° C. for 3 hours. Thereafter, water was added to the reaction solution, and the precipitated crude crystals were collected by filtration. Raney Ni was added to a solution of the obtained crude crystals in ethanol (40 mL), and the obtained mixture was then stirred at 70° C. for 2 hours. The reaction solution was filtered with celite, and the filtrate was then concentrated. The residue was washed with acetonitrile, so as to obtain the title compound (0.88 g, yield in two steps: 45%).

reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | sodium thiocyanate | 20.03 mmol, 1.62 g | [S-]C#N.[Na+]
reactant | 2-aminopropiophenone hydrochloride | 10.02 mmol, 2.00 g | Cl.NC(C(=O)C1=CC=CC=C1)C
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 5-Ethyl-4-phenylimidazole | 0.88 g, 45% | C(C)C1=C(N=CN1)C1=CC=CC=C1 | C11H12N2
